* comparator-decision input-referred noise (reduced sub-model of the DR-004 static preamplifier: preamp tail (gate at VDD) + input pair + both poly loads + both OUT1 absorber MOS caps, all re-emitted verbatim from the committed fragment; everything past the preamp outputs (steering pair, latch tail, cross-coupled PMOS, reset PMOS) omitted -- that is the loop break. Unlike the pre-DR-004 integration-phase proxy (diode-connected stand-in loads on a dynamic input stage), this stage holds its own real continuous DC operating point; noise taken at v(OUTP1,OUTN1). POST-LAYOUT form: the same loop break applied to the EXTRACTED netlist instead of to the schematic fragment's device lines -- `layout/comparator.pex-preamp.spice`, generated by `layout/extract_pex.py` by dropping every extracted device that touches a latch net (CLK/CLKT/TAIL2/OUTP/OUTN) together with those nets' parasitics, and asserting that exactly the nine expected drawn devices survive (tail, four input-pair fingers, two poly loads, two absorber caps). The surviving nets keep their full extracted lumped-RC parasitics, including the per-terminal star legs on VINP/VINN/TAILP/OUTP1/OUTN1 and the net-to-net coupling capacitors among them) corner=fs temp=125.0C supply=1.8V (issue #9)
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice fs
.temp 125.0
.param vdd_val = 1.8

Vdd VDD 0 dc {vdd_val}
Vinp VINP 0 dc 0.9 AC 1
Vinn VINN 0 dc 0.9

* GENERATED FILE -- do not hand-edit. Regenerate with
* `python3 layout/extract_pex.py`; `--check` verifies the committed copy.
*
* the post-layout PREAMPLIFIER PARTITION of the comparator, as a FLAT device-level fragment
* interchangeable with sim/comparator-decision/testbench/comparator_core.spice.
* Derived from layout/comparator.extract.spice (`klt extract --parasitics`
* over layout/comparator.gds) by a name-level rewrite only: nets renamed to
* their schematic counterparts via layout/lvs-report.json's 12/12 net
* correspondence, device instances renamed to the schematic instance they
* pair with structurally. No R, C, or device parameter value is altered.
* See layout/extract_pex.py's module docstring for the full derivation, for
* why `klt pex` is not the path here, and for the disclosed res_high_po
* w=0.42um-drawn vs w=0.35um-schematic delta this fragment deliberately
* carries through.
*
* PARTITION: every device touching one of the latch nets
* (CLK, CLKT, OUTN, OUTP, TAIL2) is omitted, together with that
* net's own parasitics and any star-leg resistor left dangling.
* What remains is the DR-004 preamplifier -- tail, both fingers of
* each input-pair device, both poly loads, both OUT1 absorber caps
* -- WITH its extracted parasitics. This is the post-layout
* counterpart of run.py `noise`'s loop-broken AC sub-model, built
* by the same loop break (omit everything past the preamp outputs)
* applied to the extracted netlist instead of to the schematic
* fragment's device lines.
*
* --- extractor's own parasitic-model disclosure, verbatim ---
* extracted by klt extract --deck sky130
* parasitic model (--parasitics):
* - capacitance: net-to-ground for every net's own (non-coupled) area/perimeter, plus net-to-net for the vertical-overlap coupling `coupling` describes below -- a coupled net pair gets a direct capacitor between their two hub nodes, not just capacitors to the deck's ground/substrate net
* - coupling: vertical overlap (crossover) unconditionally -- where one net's conductor on an adjacent metal level sits directly over another *distinct* net's conductor, that overlap area is charged between the two nets instead of to ground (issue #760) -- plus lateral (same-layer, sidewall) coupling, but only for a net pair naming one of the caller's declared `--critical-net` nets (issue #976): facing-edge length within that layer's own minimum-spacing lookback is charged between the two nets, *additively* (not deducted from either net's substrate fringe term, unlike the vertical case -- a known simplification). Any same-layer pair with neither side named `--critical-net`, and fringe shielding in general, are still not modelled
* - resistance: single lumped series resistance per net, distributed as a star across that net's device terminals (issue #592) -- not a per-segment, distributed RC ladder, *unless* `--distributed-rc` names this net via `--critical-net` (issue #977, Epic #709 Phase 2b): then the net's terminals are ordered along their approximate physical spread and its total R/C is broken into a chain of per-segment resistors (segment length proportional to inter-terminal distance) with a ground capacitor at each terminal node (proportional to its adjacent segment length/2), instead of one star hub -- still an approximation (terminal position is a device-placement proxy, not true per-segment routing geometry), but a strictly finer-grained one than the single-hub star
* - frequency: quasi-static -- one frequency-independent R and C per net; no skin effect, no distributed transmission-line behavior
*
* --- netlist ---
* device instance $1 r0 *1 6.17,41.14 nfet
XM_PINN__a OUTN1__t1 VINN__t0 TAILP__t0 GND__t11 sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 AS=2.73 AD=2.73 PS=13.84 PD=13.84
* device instance $2 r0 *1 7.91,41.14 nfet
XM_PINP__a OUTP1__t2 VINP__t0 TAILP__t4 GND__t12 sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 AS=2.73 AD=2.73 PS=13.84 PD=13.84
* device instance $4 r0 *1 30.67,24.39 nfet
XM_C1P GND__t6 OUTP1__t0 GND__t7 GND__t18 sky130_fd_pr__nfet_01v8 L=0.5 W=40 AS=16.8 AD=16.8 PS=80.84 PD=80.84
* device instance $5 r0 *1 2.67,45 nfet
XM_PTAIL TAILP__t1 VDD__t0 GND__t4 GND__t20 sky130_fd_pr__nfet_01v8 L=0.5 W=0.8 AS=0.336 AD=0.336 PS=2.44 PD=2.44
* device instance $7 r0 *1 6.17,48.86 nfet
XM_PINP__b OUTP1__t3 VINP__t1 TAILP__t3 GND__t13 sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 AS=2.73 AD=2.73 PS=13.84 PD=13.84
* device instance $8 r0 *1 7.91,48.86 nfet
XM_PINN__b OUTN1__t2 VINN__t1 TAILP__t2 GND__t14 sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 AS=2.73 AD=2.73 PS=13.84 PD=13.84
* device instance $11 r0 *1 30.67,65.61 nfet
XM_C1N GND__t1 OUTN1__t3 GND__t0 GND__t19 sky130_fd_pr__nfet_01v8 L=0.5 W=40 AS=16.8 AD=16.8 PS=80.84 PD=80.84
* device instance $17 r0 *1 16.92,65.21 res_high_po
XR_LP OUTN1__t0 VDD__t10 GND__t9 sky130_fd_pr__res_high_po l=22 w=0.42
* device instance $18 r0 *1 16.92,66.03 res_high_po
XR_LN VDD__t5 OUTP1__t1 GND__t10 sky130_fd_pr__res_high_po l=22 w=0.42
* device instance _10_t0 r0 *1 0,0
R_OUTN1__t0_OUTN1 OUTN1__t0 OUTN1 205.381939195
* device instance _10_t1 r0 *1 0,0
R_OUTN1__t1_OUTN1 OUTN1__t1 OUTN1 280.231746194
* device instance _10_t2 r0 *1 0,0
R_OUTN1__t2_OUTN1 OUTN1__t2 OUTN1 154.59165359
* device instance _10_t3 r0 *1 0,0
R_OUTN1__t3_OUTN1 OUTN1__t3 OUTN1 356.844940692
* device instance _10 r0 *1 0,0
C_OUTN1_vsubs OUTN1 vsubs 8.98701e-15
* device instance _4_t0 r0 *1 0,0
R_TAILP__t0_TAILP TAILP__t0 TAILP 182.774925399
* device instance _4_t1 r0 *1 0,0
R_TAILP__t1_TAILP TAILP__t1 TAILP 165.53906635
* device instance _4_t2 r0 *1 0,0
R_TAILP__t2_TAILP TAILP__t2 TAILP 200.564491426
* device instance _4_t3 r0 *1 0,0
R_TAILP__t3_TAILP TAILP__t3 TAILP 182.774925399
* device instance _4_t4 r0 *1 0,0
R_TAILP__t4_TAILP TAILP__t4 TAILP 200.564491426
* device instance _4 r0 *1 0,0
C_TAILP_vsubs TAILP vsubs 4.373331e-15
* device instance _6_t0 r0 *1 0,0
R_OUTP1__t0_OUTP1 OUTP1__t0 OUTP1 400.516187427
* device instance _6_t1 r0 *1 0,0
R_OUTP1__t1_OUTP1 OUTP1__t1 OUTP1 346.153803467
* device instance _6_t2 r0 *1 0,0
R_OUTP1__t2_OUTP1 OUTP1__t2 OUTP1 116.565930898
* device instance _6_t3 r0 *1 0,0
R_OUTP1__t3_OUTP1 OUTP1__t3 OUTP1 152.895839366
* device instance _6 r0 *1 0,0
C_OUTP1_vsubs OUTP1 vsubs 8.461843e-15
* device instance GND_t0 r0 *1 0,0
R_GND__t0_GND GND__t0 GND 400.157201837
* device instance GND_t1 r0 *1 0,0
R_GND__t1_GND GND__t1 GND 400.157201837
* device instance GND_t4 r0 *1 0,0
R_GND__t4_GND GND__t4 GND 334.56391983
* device instance GND_t6 r0 *1 0,0
R_GND__t6_GND GND__t6 GND 463.02727577
* device instance GND_t7 r0 *1 0,0
R_GND__t7_GND GND__t7 GND 463.02727577
* device instance GND_t9 r0 *1 0,0
R_GND__t9_GND GND__t9 GND 349.817042462
* device instance GND_t10 r0 *1 0,0
R_GND__t10_GND GND__t10 GND 364.921538254
* device instance GND_t11 r0 *1 0,0
R_GND__t11_GND GND__t11 GND 287.931836372
* device instance GND_t12 r0 *1 0,0
R_GND__t12_GND GND__t12 GND 257.968474618
* device instance GND_t13 r0 *1 0,0
R_GND__t13_GND GND__t13 GND 269.705253532
* device instance GND_t14 r0 *1 0,0
R_GND__t14_GND GND__t14 GND 237.452974888
* device instance GND_t18 r0 *1 0,0
R_GND__t18_GND GND__t18 GND 463.02727577
* device instance GND_t19 r0 *1 0,0
R_GND__t19_GND GND__t19 GND 400.157201837
* device instance GND_t20 r0 *1 0,0
R_GND__t20_GND GND__t20 GND 334.56391983
* device instance GND r0 *1 0,0
C_GND_vsubs GND vsubs 3.5595668e-14
* device instance VDD_t0 r0 *1 0,0
R_VDD__t0_VDD VDD__t0 VDD 343.954328656
* device instance VDD_t5 r0 *1 0,0
R_VDD__t5_VDD VDD__t5 VDD 362.663727008
* device instance VDD_t10 r0 *1 0,0
R_VDD__t10_VDD VDD__t10 VDD 345.643203995
* device instance VDD r0 *1 0,0
C_VDD_vsubs VDD vsubs 2.0145914e-14
* device instance VINN_t0 r0 *1 0,0
R_VINN__t0_VINN VINN__t0 VINN 203.46265
* device instance VINN_t1 r0 *1 0,0
R_VINN__t1_VINN VINN__t1 VINN 203.46265
* device instance VINN r0 *1 0,0
C_VINN_vsubs VINN vsubs 1.601158e-15
* device instance VINP_t0 r0 *1 0,0
R_VINP__t0_VINP VINP__t0 VINP 203.837
* device instance VINP_t1 r0 *1 0,0
R_VINP__t1_VINP VINP__t1 VINP 203.837
* device instance VINP r0 *1 0,0
C_VINP_vsubs VINP vsubs 1.757421e-15
* device instance cc__10__4 r0 *1 0,0
C_OUTN1_TAILP OUTN1 TAILP 2.8778e-17
* device instance cc__10__6 r0 *1 0,0
C_OUTN1_OUTP1 OUTN1 OUTP1 8.9015e-17
* device instance cc__10_VDD r0 *1 0,0
C_OUTN1_VDD OUTN1 VDD 3.6142e-17
* device instance cc__10_VINP r0 *1 0,0
C_OUTN1_VINP OUTN1 VINP 1.2047e-17
* device instance cc__4__6 r0 *1 0,0
C_TAILP_OUTP1 TAILP OUTP1 2.8778e-17
* device instance cc__4_VINN r0 *1 0,0
C_TAILP_VINN TAILP VINN 4.9036e-17
* device instance cc__6_VDD r0 *1 0,0
C_OUTP1_VDD OUTP1 VDD 3.6142e-17
* device instance cc__6_VINN r0 *1 0,0
C_OUTP1_VINN OUTP1 VINN 1.2471e-17
* device instance cc__6_VINP r0 *1 0,0
C_OUTP1_VINP OUTP1 VINP 1.2047e-17
* device instance vsubs_dctie r0 *1 0,0
R_vsubs_0 vsubs 0 1e+12
*
* Substrate tie: the extractor grounds `vsubs` only through a 1e12 ohm
* DC tie, which leaves it floating for AC/transient and would couple
* every net's ground capacitance net-to-net instead of to ground.
* The physical substrate is at GND, so tie it.
Vvsubs vsubs 0 dc 0


.control
option sparse
op
print v(TAILP) v(OUTP1) v(OUTN1)
noise v(outp1,outn1) Vinp dec 20 1000 1e+09 20
print inoise_total onoise_total
.endc
.end
